US06143762
(E)-2-(4-(3-(4-Nitrophenyl)propenoyl)aminobutyl)-7-trifluoromethylsulfonyloxy-1,2,3,4-tetrahydroisoquinoline
A mixture of 2-(4-aminobutyl)-7-trifluoromethylsulfonyloxy-1,2,3,4-tetrahydroisoquinoline (400 mg, 1.14 mmol), trans-4-nitrocinnamoyl chloride (240 mg, 1.14 mmol) and triethylamine (0.2 ml, 1.37 mmol) in dichloromethane (6 ml) was shaken at room temperature for 18 h. Saturated aqueous potassium carbonate (5 ml) was added and shaking resumed for 15 mins. The organic layer was chromatographed on silica using 10-100% ethyl acetate-hexane gradient elution to afford the title compound as a yellow gum (490 mg, 82%).

reactant | 2-(4-aminobutyl)-7-trifluoromethylsulfonyloxy-1,2,3,4-tetrahydroisoquinoline | 1.14 mmol, 400 mg | NCCCCN1CC2=CC(=CC=C2CC1)OS(=O)(=O)C(F)(F)F | C14H19F3N2O3S
reactant | trans-4-nitrocinnamoyl chloride | 1.14 mmol, 240 mg | [N+](=O)([O-])C1=CC=C(/C=C/C(=O)Cl)C=C1 | C9H6ClNO3
reactant | triethylamine | 1.37 mmol, 0.2 ml | C(C)N(CC)CC | C6H15N
reactant | potassium carbonate | 5 ml | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
product | (E)-2-(4-(3-(4-Nitrophenyl)propenoyl)aminobutyl)-7-trifluoromethylsulfonyloxy-1,2,3,4-tetrahydroisoquinoline | 490 mg, 82% | [N+](=O)([O-])C1=CC=C(C=C1)/C=C/C(=O)NCCCCN1CC2=CC(=CC=C2CC1)OS(=O)(=O)C(F)(F)F | C23H24F3N3O6S
